US09060519B2
4-Chloro-2-(3-pyridyl)thiazole-5-carbaldehyde (1.4 g, 6.25 mmol) was dissolved in dry THF (28 ml) and cooled to −10° C. A 3 M solution of methyl magnesiumchloride in THF (2.08 ml, 6.25 mmol) was added dropwise. The reaction mixture was stirred at ambient temperature for 18 hours. Water (1.7 ml) was added, followed by CH3COOH (1 ml). The reaction mixture was extracted with ethyl acetate, the organic layer was separated, dried, filtered, and the solvent was evaporated to dryness to get 1-[4-chloro-2-(3-pyridyl)thiazol-5-yl]ethanol as a brown solid. 1H NMR (300 Mz, DMSO-d6): δ: 9.07 (s, 1H), 8.68 (dd, 1H, J=1.5 Hz), 8.26 (m, 1H), 7.53 (m, 1H), 5.92 (t, 1H, J=6 Hz), 4.67 (d, 3H, J=5.4 Hz).

reactant | 4-Chloro-2-(3-pyridyl)thiazole-5-carbaldehyde | 6.25 mmol, 1.4 g | ClC=1N=C(SC1C=O)C=1C=NC=CC1 | C9H5ClN2OS
reactant | methyl magnesiumchloride | C[Mg]Cl
reactant | Water | 1.7 ml | O | H2O
reactant | CH3COOH | 1 ml | CC(=O)O | C2H4O2
solvent | THF | 28 ml | C1CCOC1 | C4H8O
solvent | THF | 6.25 mmol, 2.08 ml | C1CCOC1 | C4H8O
product | 1-[4-chloro-2-(3-pyridyl)thiazol-5-yl]ethanol | ClC=1N=C(SC1C(C)O)C=1C=NC=CC1 | C10H9ClN2OS
